US07572801B2
Phenethyloxy-acetyl chloride (3.79 g, 6.12 mmol) was added to a solution of 2-amino-3-cyanopyridine ([24517-64-4], 662 mg, 5.56 mmol) and DMAP (67 mg, 0.55 mmol) in a mixture of dichloromethane (8 ml) and pyridine (8 ml). After 3 h at r.t., the solvent was evaporated, and N-(3-cyano-pyridin-2-yl)-2-phenethyloxy-acetamide was isolated from the residue by column chromatography (silica gel, heptane, ethyl acetate, methanol). MS: m/e=282.1 [M+H+], 1H NMR (d6-DMSO): 2.91 (t, 2H), 3.77 (t, 2H), 4.18 (s, 2H), 7.17-7.23 (m, 5H), 7.47 (dd, 1H), 8.37 (d, 1H), 8.71 (d, 1H), 10.55 (bs, 1H).

reactant | Phenethyloxy-acetyl chloride | 6.12 mmol, 3.79 g | C(CC1=CC=CC=C1)OCC(=O)Cl | C10H11ClO2
reactant | 2-amino-3-cyanopyridine | 5.56 mmol, 662 mg | NC1=NC=CC=C1C#N | C6H5N3
catalyst | DMAP | 0.55 mmol, 67 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | N-(3-cyano-pyridin-2-yl)-2-phenethyloxy-acetamide | C(#N)C=1C(=NC=CC1)NC(COCCC1=CC=CC=C1)=O | C16H15N3O2
